US08252792B2
To 4-(2-acetoxy-ethyl)-3-oxo-piperazine-1-carboxylic acid benzyl ester (925 mg) in methanol (10 ml) was added potassium carbonate (800 mg) in water (4 mL). After 2 hours at room temperature the mixture was diluted with chloroform, washed with brine, dried (MgSO4) and the solvent removed in vacuo to yield 4-(2-hydroxy-ethyl)-3-oxo-piperazine-1-carboxylic acid benzyl ester (780 mg). This material was dissolved in ethanol and stirred over 10% Pd/C under an atmosphere of hydrogen for 24 hours. The reaction mixture was then filtered through celite and the solvent removed in vacuo to give 1-(2-hydroxy-ethyl)-piperazin-2-one (413 mg), which was used in a standard reductive amination procedure with 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde to give 4-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-1-(2-hydroxy-ethyl)-piperazin-2-one. This compound (150 mg) was used in a Suzuki coupling with 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole (96 mg) to give after flash silica purification the title compound (39 mg) as a white solid.

reactant | 4-(2-acetoxy-ethyl)-3-oxo-piperazine-1-carboxylic acid benzyl ester | 925 mg | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CCOC(C)=O)=O | C16H20N2O5
reactant | potassium carbonate | 800 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 4 mL | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-hydroxy-ethyl)-3-oxo-piperazine-1-carboxylic acid benzyl ester | 780 mg | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CCO)=O | C14H18N2O4
